* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation 
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within 
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating 
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*-----------------------------------------------------------------------------------------
* LM139/LM239/LM339 spice macromodel
* CONNECTIONS : (corrected feb/17)
* 2 NON-INVERTING INPUT
* 1 INVERTING INPUT
* 44 POSITIVE POWER SUPPLY
* 55 NEGATIVE POWER SUPPLY
* 30 OUTPUT
*
**********************************************************
.SUBCKT LMx39 2 1 44 55 30
EVCCP 4 0 44 0 1.0
EVCCN 5 0 55 0 1.0
VREADIO 3 30 DC 0
G_ICCSAT 44 55 VALUE={2.1E-4+3E-6*V(44,55)}
G_IOUT_SINKED 55 0 VALUE={IF (V(1)<V(2), 0, I(VreadIo))}
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
* INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 438.3U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 5.5E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.500000E+00
FCP 4 5 VOFP 0.175 
FCN 5 4 VOFN 0.175 
FIBP 2 0 VOFN 4.000000E-04
FIBN 0 1 VOFP 4.000000E-04
* AMPLIFYING STAGE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104 
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1 
.MODEL NMOD NPN(IS=0.1E-09 BF=4000)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
REOUT 28 5 20
RSOUT 3 0 1E+12
VNUL 3 103 0
DSTOP 32 103 MDTH 400E-12
HSTOP 32 33 VNUL 135
VSTOP 33 5 0.5
.ENDS
 